US03940421
Following a procedure similar to that described in Example 1B hereinabove, methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate is reacted with 5-(1-pentyl)resorcinol to give 1,2-dihydro-9-hydroxy-4-oxo-7-(1-pentyl)-4H-thieno[2,3-c][1]benzopyran.

reactant | methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate | O=C1C(SCC1)C(=O)OC | C6H8O3S
reactant | 5-(1-pentyl)resorcinol | C(CCCC)C=1C=C(C=C(O)C1)O | C11H16O2
product | 1,2-dihydro-9-hydroxy-4-oxo-7-(1-pentyl)-4H-thieno[2,3-c][1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCC1)CCCCC | C16H18O3S
